US04382929
5-Methyl-4-(dimethylaminomethyl)-2-thiophenemethanol
A mixture of N,N,2-trimethyl-3-thiophenemethanamine (6.1 g), paraformaldehyde (3.0 g) in conc. hydrochloric acid (20 ml) and acetic acid (45 ml) was stirred at 0° to 5° C. for 1 hour, and at 8° for 72 hours. The mixture was added to an ice-cold, saturated solution of sodium carbonate. Aqueous 5 M sodium hydroxide was added and the mixture was stirred for 20 hours. The solution was extracted with chloroform and the organic extract was washed with dilute sodium hydroxide and saturated brine, dried and evaporated to leave an oil. This residue was distilled to give the title compound (6 g) as a pale yellow oil b.p. 120°/0.1 mm. The oxalate salt was formed in ethanol and ethyl acetate m.p. 129°-131° C.

reactant | N,N,2-trimethyl-3-thiophenemethanamine | 6.1 g | CN(CC1=C(SC=C1)C)C | C8H13NS
reactant | paraformaldehyde | 3.0 g | C=O | CH2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 5-Methyl-4-(dimethylaminomethyl)-2-thiophenemethanol | 6 g | CC1=C(C=C(S1)CO)CN(C)C | C9H15NOS
